US08304371B2
Step 10: Synthesis of N-({4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl) 3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methyl)acetamide
1-{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methanamine (0.1 g) was dissolved in THF (10 ml), and was added acetic anhydride (0.04 g) thereto. The mixture was stirred for 4 hours at room temperature. The mixture was concentrated under reduced pressure to give residual material which was purified by silica gel chromatography, to obtain the desired compound (63 mg) in a yield of 58%.

reactant | 1-{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methanamine | 0.1 g | ClC=1C=C(C=C(C1)Cl)C1(CN=C(C1)C1=CC=C(C2=CC=CC=C12)CN)C(F)(F)F | C22H17Cl2F3N2
reactant | acetic anhydride | 0.04 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-({4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl) 3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methyl)acetamide | 63 mg, yield of 58% | ClC=1C=C(C=C(C1)Cl)C1(CN=C(C1)C1=CC=C(C2=CC=CC=C12)CNC(C)=O)C(F)(F)F | C24H19Cl2F3N2O
